### PR TITLE
feat(Sumcheck/Simple): recover perfect completeness proofs for v4.29.0

### PR DESCRIPTION
**Pull request by XC0R**
## Summary

- Recovers the two sorry'd proof blocks in `reduction_perfectCompleteness` (SingleRound.lean) that regressed during the v4.29.0 bump (#467)
- Root cause: VCVio v4.29.0 wraps `QueryImpl` in `liftTarget` during `addLift`, changing how `simulateQ_bind` splits do-blocks — the old `erw [simulateQ_query]` pattern no longer matches
- Adds `ArkLib/ToMathlib/SimulateQ.lean` with `simulateQ_liftTarget` lemma

Depends on #467.

### CODE REVIEW

File: ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean [hunk 1]
```diff
@@ -672,17 +672,20 @@ lemma mem_subdomain_of_eq_vals {n : ℕ} {ω : SmoothFftDomain n F}
   (hij : i.val = j.val) :
   x ∈ ω.subdomain i ↔ x ∈ ω.subdomain j := by rw [Fin.ext hij]
 
+set_option linter.flexible false in
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean]: Would prefer avoiding this.

File: ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean [hunk 2]
```diff
@@ -1081,9 +1088,10 @@ lemma subdomain_fftDomain {n} {ω : SmoothCosetFftDomain n F}
   {i : Fin n.succ} :
   (ω.subdomain i).fftDomain = ω.fftDomain.subdomain i := by rfl
 
+set_option linter.flexible false in
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean]: Would prefer avoiding this.

File: ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean [hunk 3]
```diff
@@ -1094,19 +1102,17 @@ lemma subdomain_n {n : ℕ} {ω : SmoothCosetFftDomain n F} :
     , subdomain_embed
     , eval_coset_fft_domain_eq_eval_x_mul_domain])
 
+set_option linter.flexible false in
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean]: Would prefer avoiding this.

File: ArkLib/Data/Polynomial/Interface.lean [hunk 4]
```diff
@@ -62,10 +62,17 @@ lemma coeff_polynomialOfCoeffs_eq_coeffs'' :
     (polynomialOfCoeffs coeffs).coeff = Fin.liftF coeffs := by
   aesop (add simp [Fin.liftF', polynomialOfCoeffs])
 
+set_option linter.flexible false in
```
Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/Interface.lean]: Would prefer avoiding this.

File: ArkLib/Data/Polynomial/Interface.lean [hunk 5]
```diff
@@ -62,10 +62,17 @@ lemma coeff_polynomialOfCoeffs_eq_coeffs'' :
...
+set_option linter.style.multiGoal false in
```
Comment (alexanderlhicks) [inline ArkLib/Data/Polynomial/Interface.lean]: Would prefer avoiding this.

File: ArkLib/Data/CodingTheory/ProximityGap/DG25/MainResults.lean [hunk 6]
```diff
@@ -412,17 +407,17 @@ lemma disjoint_R_star_star_filter_columns_in_D_not_in_D (U₀ U₁ : Interleaved
   -- The goal is now `Disjoint (R_ss.filter P) (R_ss.filter (¬P))`
   apply disjoint_filter_filter_not
 
+set_option maxHeartbeats 400000 in
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/DG25/MainResults.lean:410]: not strictly blocking but it would be great to avoid this.

File: ArkLib/ProofSystem/Component/RandomQuery.lean [hunk 7]
```diff
@@ -108,6 +108,7 @@ instance : VerifierOnly (pSpec OStatement) where
 
 variable {σ : Type} {init : ProbComp σ} {impl : QueryImpl oSpec (StateT σ ProbComp)}
 
+set_option maxHeartbeats 250000 in
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Component/RandomQuery.lean:111]: not strictly blocking but it would be great to be able to avoid this.

File: ArkLib/ToMathlib/SimulateQ.lean [hunk 8]
```diff
@@ -0,0 +1,18 @@
+import VCVio.OracleComp.SimSemantics.QueryImpl
```
Comment (alexanderlhicks) [inline ArkLib/ToMathlib/SimulateQ.lean]: Could you please PR this directly to VCV-io? We can merge it there asap and avoid carrying it around here.

**Review by alexanderlhicks — CHANGES_REQUESTED** [review]

File: ArkLib/ToMathlib/SimulateQ.lean (hunk 8 above)
Comment (XC0R) [reply ArkLib/ToMathlib/SimulateQ.lean]: Verified-zkEVM/VCV-io#299 & dropped the file in the latest push.

**Review by alexanderlhicks — APPROVED** [review]
